US03995052
1-Methyl-1,3,4,9-tetrahydroindeno[1,2-c]pyran-1-carboxylic acid (Xa; R1 = Ch3, R2, R3, R4, R5, R6 and R7 = H, X = O and Y1 = COOH)
Indene-2-ethanol (3.5 g) described in Examples 474 and 476, is treated with ethyl pyruvate (4 g) and boron trifluoride-etherate (2 ml) in benzene (50 ml) according to the procedure of Example 2 to yield the title compound, m.p. 171°-173° C., νmaxnujol 1720 cm-1.

reactant | Indene-2-ethanol | 3.5 g | C1C(=CC2=CC=CC=C12)CCO | C11H12O
reactant | ethyl pyruvate | 4 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | boron trifluoride-etherate | 2 ml | B(F)(F)F.CCOCC
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-Methyl-1,3,4,9-tetrahydroindeno[1,2-c]pyran-1-carboxylic acid | CC1(OCCC=2C1=C1CC=CC=C1C2)C(=O)O | C14H14O3
